US06046201
N-(12-Tosyloxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a suspension of 210 mg of N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide in 10 ml of methylene chloride were added 0.03 ml of pyridine, 115 mg of tosyl chloride and a catalytic amount of 4-dimethylaminopyridine and the mixture was stirred at room temperature for one hour. The reaction solution was washed with water and a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue thus obtained was chromatographed over a silica gel column to afford 219 mg of the title compound.

reactant | N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 210 mg | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
reactant | pyridine | 0.03 ml | N1=CC=CC=C1 | C5H5N
reactant | tosyl chloride | 115 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(12-Tosyloxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 219 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C31H48N4O4S
